US09079860B2
Part A: 4-Cyano-3-fluorobenzoic acid
4-Bromo-3-fluorobenzoic acid (7.5 g, 0.034 mol), Zn(CN)2 (4.0 g, 0.034 mol) and Pd(PPh3)4 (3.95 g, 0.0034 mol) were added together with 60 mL of DMF (degassed). The mixture was heated at 90° C. under N2 for 3 h. It was cooled to room temperature and filtered to remove insoluble inorganic salts (discarded). The filtrate was diluted with water and extracted with EtOAc. The EtOAc mixture was washed with water, brine, dried over MgSO4, and concentrated to yield 4.5 g of the desired product with 90% purity. This material was taken into the next step without further purification. 1H-NMR (500 MHz, d4-MeOH) δ 7.82 (m, 1H), 7.90 (m, 3H), 7.56 (d, J=10.0 Hz, 1H), 7.68 (s, 1H), 7.96 (d, J=8.4 Hz, 1H).

reactant | 4-Bromo-3-fluorobenzoic acid | 0.034 mol, 7.5 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.034 mol, 4.0 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.0034 mol, 3.95 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyano-3-fluorobenzoic acid | 4.5 g | C(#N)C1=C(C=C(C(=O)O)C=C1)F | C8H4FNO2
